US05385772
Another preferred embodiment of the present invention is an adhesive system in which the pressure sensitive adhesive polymer of the filled support layer is comprised of from about 65 to 90 mole percent of non-tertiary acrylic acid alkyl esters formed of alcohols having from about 6 to about 12 carbon atoms, the remainder of the polymer being an ethylenically-unsaturated monomer unit containing at least one polar moiety, or a combination of such polar-moiety containing unit and a small amount of other monomer(s). A preferred polar moiety containing monomer unit is acrylic acid. Such filled support layer is preferably about from 25 to 45 mils in thickness, and further is coated on at least one side with an unfilled pressure sensitive adhesive layer of about from 1 to 5 mils in thickness, the pressure sensitive adhesive polymer of which similarly is comprised of from about 65 to 90 mole percent of non-tertiary acrylic acid alkyl esters formed of alcohols having from about 6 to about 12 carbon atoms, the remainder of the polymer being an ethylenically-unsaturated monomer unit containing at least one polar moiety, or a combination of such polar-moiety containing unit and a small amount of other monomer(s) that does not interfere significantly with the pressure sensitive adhesive properties. Preferably this adhesive system has as the pressure sensitive adhesive matrix of the filled support layer a pressure sensitive ahdhesive polymer comprised of from about 55 to about 65 mole percent 2-ethylhexyl acrylate, from about 15 to about 25 mole percent of octyl acrylate, decyl acrylate, or mixtures thereof, and from about 15 to 25 mole percent of an ethylenically-unsaturated polar-group containing monomer unit, which preferably is acrylic acid. Such filled support layer preferably contains from about 15 to about 25 percent organic particulate solids filler based on the weight of the pressure sensitive adhesive polymer comprising the adhesive matrix of the filled support layer. The filled support layer is preferably cross-linked, and may contain from about 1.0 to about 3.0 weight percent hydrophilic silica to facilitate uniform dispersion of the filler. The thinner, unfilled pressure sensitive adhesive layer(s) coated onto the support layer is comprised of from about 70 to about 80 mole percent of 2-ethylhexyl acrylate and from about 20 to 30 mole percent of an ethylenically-unsaturated polar-group containing monomer unit, which preferably is acrylic acid. The unfilled pressure sensitive adhesive layer(s) is preferably also cross-linked and more preferably cross-linked to a greater degree than the filled support layer. In further preferred embodiment, the adhesive system is comprised of such a filled support layer coated on both sides with such an unfilled pressure sensitive adhesive layer. This preferred embodiment, particularly when the organic particulate solids filler is polyvinyl acetate, is both strong and has a significant degree of adhesive agressiveness. It has a significantly high peel strength and high pluCk'strength. The higher acrylic acid alkyl esters employed are less volatile than those formed of lower molecule weight alcohols, for instance butyl acrylate, and hence in the manufacture of such adhesive system the polymerization may be.conducted fat a higher temperature than if such volatile monomers were present.

reactant | 2-ethylhexyl acrylate | C(C=C)(=O)OCC(CCCC)CC | C11H20O2
reactant | octyl acrylate | C(C=C)(=O)OCCCCCCCC | C11H20O2
reactant | decyl acrylate | C(C=C)(=O)OCCCCCCCCCC | C13H24O2
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
